* Z:\mnt\design.r\spice\examples\Linkwitz.asc
E1 N009 0 EQ 0 1
C1 OUT N009 {Cspk}
L1 OUT 0 {Lspk}
V1 IN 0 ac 1
R1 N005 IN {R1}
R2 N001 N005 {R1}
R3 N004 IN {R2}
R4 N002 N001 {R2}
R5 N003 N001 {R3}
R6 EQ N003 {R3}
C2 EQ N002 {C2}
C3 N001 N004 {C2}
C4 N005 0 {C1}
C5 N003 0 {C3}
V2 N007 0 {R1/1K}
V3 N010 0 {R2/1K}
V4 N012 0 {R3/1K}
V5 N008 0 {C1/1u}
V6 N011 0 {C3/1u}
V7 N006 0 {Vb}
XU1 0 N001 NC_01 NC_02 EQ level.1
.param Vb  = Vas / ((Qtc/Qts) * (Qtc/Qts) - 1.)
.param Fc   = Fs * sqrt(( Vas/Vb) + 1.)
.param Lspk  = 1
.param Cspk  = 1. / (39.47842 * Fc * Fc * Lspk)
.param Rspk  = 6.2831853 * Fc / Qtc
.param Fs =95
.param Qts=0.472
.param Vas=0.04481
.ac oct 10 10 10K
.param k   = (Fc0/Fcx-Qt0/Qtx)/(Qt0/Qtx-Fcx/Fc0)
.param R1  = (1/(2*pi*Fc0*C2*(2*Qt0*(1+k))))
.param R2  = 2*k*R1
.param R3  = R1*(Fc0/Fcx)**2
.param C1  = C2*(2*Qt0*(1+k))**2
.param C3  = C1*(Fcx/Fc0)**2
;.param
* Linkwitz-Riley Transform: equalize a driver in a sealed box to a different Q and cutoff frequency
* Driver Characteristics
* Sealed Box
* Plot V(eq) to see Linkwitz transfer function\nPlot V(out)/V(eq) to see speaker transfer function\nPlot V(out) for net transfer function
* Voltage to Sound Pressure Level Equiv. Circuit
* This example schematic is supplied for informational/educational purposes only.
* This is the theory of the PA system used in the 2015 World Circuit Seminar\nTour except (i) the electronics I traveled with include baffle step\ncompensation (ii) the microphone aperture was adjusted to add\n4dB @ 16kHz to enhance sibilance and (iii) the drivers were a vertical array.
* These voltage sources read\nout the component values to\nimplement the equalizer
* Sealed box\nvolume in same\nunits as Vas
* Input Parameters
.param Qtc = 0.7071
* Input parameter
* Input parameters appropriate\nfor the Fountek FR88EX\n 3" Full Range Al cone
.param C2=.047u
.param Fc0 = Fc      ; Fc untransformed
.param Qt0 = Qtc     ; Qtc untransformed
.param Fcx = 80       ; Fc transformed(chosen on spectral analysis of my voice)
.param Qtx = 0.7071 ; Qtc transformed
.lib UniversalOpamps2.sub
.backanno
.end
